US09119868B2
A solution of 54.3 g (84.0 mmol) of crude methyl 2-bromo-3-chloro-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate in 351 mL of anhydrous THF and 39 mL of anhydrous MeOH was cooled in an ice water/brine bath to −5° C. (internal temperature). To the stirred solution was added 125 mL (251 mmol) of 2M LiBH4/THF via addition funnel at a rate so as to maintain the temperature below 5° C. The addition required 35 minutes. The brine bath was then replaced by an ice water bath and stirring of the solution continued. After another 1.5 hours LCMS indicated complete reaction. The solution was quenched by addition of 200 mL of saturated aqueous sodium bicarbonate followed by 400 mL of water and 600 mL of EtOAc. The mixture was stirred vigorously for 30 minutes and then transferred to a separatory funnel. After the phases separated, solid remained in the aqueous phase so an additional 200 mL of water was added and the mixture shaken, and the phases again separated. The aqueous solution was extracted with EtOAc (2×200 mL). The combined EtOAc solutions were washed with 5% aqueous NaCl (1×), saturated brine (1×), dried over sodium sulfate and concentrated to dryness at reduced pressure to afford 54.5 g of 6-(N-(4-bromo-3-chloro-5-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as an orange-brown foam. The crude material was carried forward to the next step without purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45-8.54 (m, 1H) 8.12 (s, 1H) 7.98 (dd, J=8.93, 5.41 Hz, 2H) 7.59 (d, J=2.73 Hz, 1H) 7.54 (d, J=2.63 Hz, 1H) 7.41 (t, J=8.88 Hz, 2H) 7.22 (s, 1H) 5.64 (t, J=5.56 Hz, 1H) 4.48 (d, J=5.56 Hz, 2H) 3.45 (s, 3H) 2.84 (d, J=4.59 Hz, 3H) 2.06-2.17 (m, 1H) 0.75-1.06 (m, 3H) 0.47 (br. s., 1H). LCMS(ESI): 623 (M+H+).

reactant | methyl 2-bromo-3-chloro-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 84.0 mmol, 54.3 g | BrC1=C(C(=O)OC)C=C(C=C1Cl)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H23BrClFN2O6S
reactant | LiBH4 THF | 251 mmol, 2M, 125 mL | [Li+].[BH4-].C1CCOC1
solvent | THF | 351 mL | C1CCOC1 | C4H8O
solvent | MeOH | 39 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 6-(N-(4-bromo-3-chloro-5-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 54.5 g | BrC1=C(C=C(C=C1CO)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C27H23BrClFN2O5S
